* ==========================================================================
* @part: HJR-4102-L-12V relay
* @family: passive
* @source: ngspice
* @url: https://ngspice.sourceforge.io/modelparams.html
* @retrieved: 2026-09-24
* @licence: none stated
* @added-by: nav
* ==========================================================================
* relay Tianbo HJR-4102 L 12
* http://tianbo-relay.com/en/products.php?tid=10
* http://tianbo-relay.com/upload/2019062414532076.pdf datasheet

.subckt HJR-4102L12 COM NO NC POS NEG
R1 POS INT1 720   ; coil resistance
Vmeasp INT1 INT2 0 ; to measure the coil current
Vmeasn INT3 INT2 0 ; to measure the coil current (reverse polarity)
L1 INT3 NEG 300m ; just a guess !
W1 COM NO Vmeasp MYSW3
W2 COM NC Vmeasn MYSW4
* Ion=9/720=12.5m, Ioff=1.2/720=1.67m, It=(Ion+Ioff)/2=7.1m Ih=Ion-It=5.4m
.model MYSW3 CSW(Ron=.05 Roff=500Meg Ih=5.4m It=7.1m)
.model MYSW4 CSW(Ron=.05 Roff=500Meg Ih=5.4m It=-7.1m)
.ends
